US05710139
3,4-Dichloro-6-nitrobenzaldehyde (4.40 g, 20 mmol) was dissolved in 50% aqueous ethanol (200 ml) at 50°-60° C. and the solution was added to a solution of iron(II) sulfate heptahydrate (27.8 g, 100 mmol) in water (200 ml) at 90° C. Concentrated (25%) aqueous ammonia (50 ml) was added in several portions with intensive stirring while the temperature was kept close to the boiling point. The mixture was refluxed for 5-10 min. and cooled. The precipitate was filtered off and washed with ethanol. The filtrate was concentrated in vacuo until most of the ethanol was removed. The resulting precipitate was collected, washed with water and dried in vacuo at 40°-50° C. to give 3.3 g of 3,4-dichloro-6-aminobenzaldehyde.

reactant | 3,4-Dichloro-6-nitrobenzaldehyde | 20 mmol, 4.40 g | ClC=1C=C(C=O)C(=CC1Cl)[N+](=O)[O-] | C7H3Cl2NO3
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
catalyst | iron(II) sulfate heptahydrate | 100 mmol, 27.8 g | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Fe+2]
product | 3,4-dichloro-6-aminobenzaldehyde | 3.3 g | ClC=1C=C(C=O)C(=CC1Cl)N | C7H5Cl2NO
